US05066818
2,4-dimethoxybenzophenone was prepared by the Friedel-Crafts reaction of 1,3-dimethoxybenzene with benzoyl chloride in carbon disulfide using aluminum chloride as the catalyst 11.4 grams (0.05 mole) of the resulting benzophenone was converted to the propargyl alcohol using the conditions described in Example 1, Step 2. The crude propargyl alcohol was taken up in 150 milliliters of toluene. 3 grams (0.02 mole) of 2-naphthol and 30 grams of anhydrous acidic alumina were added to the toluene solution. The resulting slurry was refluxed for 3 hours, cooled and filtered. The alumina was separated from the reaction mixture and washed with toluene until no more photochromic was extracted therefrom. The solvent solutions were combined and the toluene solvent removed on a rotary evaporator. The residue was chromatographed on silica using a 4:1 mixture of hexane and ethyl acetate as elutant. The photochromic fractions were combined and re-chromatographed using a 3:7 mixture of hexane and chloroform as elutant. The photochromic product readily crystallized from hexane. 2.6 grams of crystallized product having a melting range of 132-134° C. were obtained. NMR analysis of the product confirmed it to be 3-phenyl-3-(2,4-dimethoxyphenyl)-3H-naphtho[2,1-b]pyran.

reactant | 1,3-dimethoxybenzene | COC1=CC(=CC=C1)OC | C8H10O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzophenone | 0.05 mole, 11.4 grams | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | 2-naphthol | 0.02 mole, 3 grams | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 3-phenyl-3-(2,4-dimethoxyphenyl)-3H-naphtho[2,1-b]pyran | C1(=CC=CC=C1)C1(C=CC2=C(O1)C=CC1=CC=CC=C12)C1=C(C=C(C=C1)OC)OC | C27H22O3
solvent | carbon disulfide | C(=S)=S | CS2
solvent | toluene | 150 milliliters | C1(=CC=CC=C1)C | C7H8
product | 2,4-dimethoxybenzophenone | COC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C15H14O3
